US07572820B2
C. 1-{1-[3-(4-Fluorophenyl)-1,2,4-oxadiazol-5-yl]ethyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
To 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]propanoic acid (0.06 g, 0.212 mmol) in CH3CN (3 mL) was added CDl (0.034 g, 0.212 mmol). After 5 min, 4-fluoro-N-hydroxybenzenecarboximidamide (0.033 g, 0.212 mmol) was added. The resulting mixture was stirred at rt and then heated to 150° C. in a microwave for 20 min. Concentration was followed by column chromatography (EtOAc/hexanes) to obtain the desired product (0.0065 g, 8% yield): MS (APCl) m/z 401 (M+1).

reactant | 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]propanoic acid | 0.212 mmol, 0.06 g | C(#N)C=1C(=C2C=CN(C2=CC1)C(C(=O)O)C)C(F)(F)F | C13H9F3N2O2
reactant | 4-fluoro-N-hydroxybenzenecarboximidamide | 0.212 mmol, 0.033 g | FC1=CC=C(C=C1)C(NO)=N | C7H7FN2O
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | 1-{1-[3-(4-Fluorophenyl)-1,2,4-oxadiazol-5-yl]ethyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.0065 g, 8% yield | FC1=CC=C(C=C1)C1=NOC(=N1)C(C)N1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C20H12F4N4O
